US07214746B2
Diethyl 1H-inden-2-ylphosphonate (9).
To 91.0 g (0.467 mol) of 2-bromo-1H-indene and 3.02 g (0.023 mol) of NiCl2 in 250 ml flask equipped with a distillation head, 85.0 ml (82.4 g, 0.496 mol) of (EtO)3P were added. This black mixture was heated in the oil bath at 185–190° C. for 3 hours. During this procedure, argon gas was bubbled through the mixture to eliminate ethyl bromide formed. The crude product was distilled in vacuum (171–175° C./1 mm). Yield 102.4 g (87%) of colorless oil of diethyl 1H-inden-2-ylphosphonate, 9.

reactant | 2-bromo-1H-indene | 0.467 mol, 91.0 g | BrC=1CC2=CC=CC=C2C1 | C9H7Br
reactant | (EtO)3P | 0.496 mol, 85.0 ml, 82.4 g | P(OCC)(OCC)OCC | C6H15O3P
catalyst | NiCl2 | 0.023 mol, 3.02 g | Cl[Ni]Cl
product | Diethyl 1H-inden-2-ylphosphonate | C1C(=CC2=CC=CC=C12)P(OCC)(OCC)=O | C13H17O3P
